US08133882B2
15 ml of methanol, 15 ml of THF and 250 mg of sodium cyanoborohydride were added to 300 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde oxime. 2 ml of a 4 M hydrogen chloride dioxane solution was added thereto under ice-cooling, followed by stirring at room temperature for 3 hours. Under ice-cooling, aqueous 1 M sodium hydroxide solution was added thereto, followed by extraction with chloroform and subsequent washing with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography to obtain 130 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-[(hydroxyamino)methyl]quinolin-4(1H)-one.

reactant | sodium cyanoborohydride | 250 mg | C(#N)[BH3-].[Na+]
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde oxime | 300 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C=NO)=O)F | C21H26FN3O2
reactant | hydrogen chloride dioxane | 4 M | O1CCOCC1.Cl
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | methanol | 15 ml | CO | CH4O
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-[(hydroxyamino)methyl]quinolin-4(1H)-one | 130 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CNO)=O)F | C21H28FN3O2
